US04477556
Preparation of 2-nitro-4,5-dimethoxybenzyl alcohol
1011 g of 2-nitro-4,5-dimethoxybenzaldehyde in 10 l of ethanol with 94.8 ml water added was stirred, and a solution of 57 g sodium borohydride in 2 l absolute ethanol was added over 1 hour. The mixture was heated to 40° C. for 2.5 hours, cooled to 5° C. and the mixture filtered. The solid was washed with 4 l of cold 2B alcohol (denatured ethanol) and 8 l cold water, and dried in a 50° C. vacuum oven to yield 570 g, 56.5% yield.

reactant | 2-nitro-4,5-dimethoxybenzaldehyde | 1011 g | [N+](=O)([O-])C1=C(C=O)C=C(C(=C1)OC)OC | C9H9NO5
reactant | water | 94.8 ml | O | H2O
reactant | sodium borohydride | 57 g | [BH4-].[Na+]
solvent | ethanol | 10 l | C(C)O | C2H6O
solvent | ethanol | 2 l | C(C)O | C2H6O
product | 2-nitro-4,5-dimethoxybenzyl alcohol | 56.5% yield | [N+](=O)([O-])C1=C(CO)C=C(C(=C1)OC)OC | C9H11NO5
